US07772226B2
(a) t-Butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate
50 mg of t-butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate was dissolved in 1.2 ml of N,N-dimethylformamide, and then 44 μl of (2-chloromethoxyethyl)trimethylsilane and 34 mg of potassium carbonate were added thereto. The mixture was stirred at room temperature for 2 hours. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by silica gel chromatography to give 55 mg of the title compound.

reactant | t-butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 50 mg | C(C#CC)N1C(=NC=2N=C(NC(C12)=O)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23ClN6O3
reactant | (2-chloromethoxyethyl)trimethylsilane | 44 μl | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | potassium carbonate | 34 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
product | t-Butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 55 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)COCC[Si](C)(C)C)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C24H37ClN6O4Si
